US09399637B2
Step 5) tert-butyl 5-aminohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a solution of tert-butyl 5-(benzylamino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (6.50 g, 20.5 mmol) and AcOH (1.23 g, 20.5 mmol) in MeOH (150 mL) was added Pd(OH)2/C (10% wt, 1.00 g), and the suspension was stirred at 40° C. under H2 atmosphere overnight. The mixture was filtered through a pad of Celite and then concentrated in vacuo. The residue was dissolved in saturated NaHCO3 solution (70 mL) and extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL×3), dried over anhydrous Na2SO4, then filtered and concentrated in vacuo to give the title compound as a yellow solid (4.00 g, 86.2%).

reactant | tert-butyl 5-(benzylamino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 20.5 mmol, 6.50 g | C(C1=CC=CC=C1)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C19H28N2O2
reactant | AcOH | 20.5 mmol, 1.23 g | CC(=O)O | C2H4O2
solvent | MeOH | 150 mL | CO | CH4O
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | tert-butyl 5-aminohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 4.00 g, 86.2% | NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C12H22N2O2
